US09255110B2
To a solution of 0.0794 g (0.233 mmole) 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide in 2.33 mL of dioxane was added 0.168 mL (1.4 mmole) of cis-cyclohexane-1,2-diamine. The mixture was heated at 100 degrees for 2 hours. Water and dichloromethane were added, separated. The aqueous layer was washed with dichloromethane twice. The organic layer was washed with aqueous sodium carbonate, brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-0.7 N ammonia solution in methanol (gradient 100:0-90:10) gave 0.054 g of 2-(cis-2-amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide as a light yellow solid. MH+/Z=419.

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide | 0.233 mmole, 0.0794 g | N1=CC=CC2=CC(=CC=C12)NC(=O)C1=CSC2=C1N=C(N=C2)Cl | C16H9ClN4OS
reactant | cis-cyclohexane-1,2-diamine | 1.4 mmole, 0.168 mL | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | Water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 2.33 mL | O1CCOCC1 | C4H8O2
product | 2-(cis-2-amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide | 0.054 g | N1=CC=CC2=CC(=CC=C12)NC(=O)C1=CSC2=C1N=C(N=C2)N[C@H]2[C@H](CCCC2)N | C22H22N6OS
